US07189851B2
B. 2-(3-(ethoxycarbonyl)-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-8,9-dihydro-5H,7H-pyrazolo[1′,2′:1,2]pyrazolo[3,4-b]pyridin-4-yl)-1,3-oxazole-4-carboxylic acid
A THF (4 mL) of ethyl 4-[4-(ethoxycarbonyl)-1,3-oxazol-2-yl]-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-8,9-dihydro-5H,7H-pyrazolo[1′2′:1,2]pyrazolo[3,4-b]pyridine-3-carboxylate (0.400 g, 0.717 mmol), 0.717 mL of 1 N NaOH and EtOH (0.717 mL) was stirred for 6 h at ambient temperature and then concentrated. The residue was treated with 1 N HCl until acidic and the organics extracted with EtOAc (2×) and then dried (Na2SO4), filtered and concentrated to a yellowish-orange solid and used in the proceeded step with no further purification: 1H NMR (CDCl3, 400 MHz) δ 8.39 (s, 1H), 7.51 (d, J=8.1 Hz, 2H), 7.29 (d, J=7.9 Hz, 2H), 4.12–4.00 (m, 6H)), 3.18–3.08 (m, 4H), 2.81–2.74 (m, 2H), 1.00 (t, J=7.2 Hz, 3H).

reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | ethyl 4-[4-(ethoxycarbonyl)-1,3-oxazol-2-yl]-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-8,9-dihydro-5H,7H-pyrazolo[1′2′:1,2]pyrazolo[3,4-b]pyridine-3-carboxylate | 0.717 mmol, 0.400 g | C(C)OC(=O)C=1N=C(OC1)C1=C2C(=NC(=C1C(=O)OCC)CCC1=CC=C(C=C1)C(F)(F)F)N1N(C2=O)CCC1 | C27H25F3N4O6
reactant | NaOH | 1 N, 0.717 mL | [OH-].[Na+]
solvent | EtOH | 0.717 mL | CCO | C2H6O
product | 2-(3-(ethoxycarbonyl)-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-8,9-dihydro-5H,7H-pyrazolo[1′,2′:1,2]pyrazolo[3,4-b]pyridin-4-yl)-1,3-oxazole-4-carboxylic acid | C(C)OC(=O)C=1C(=C2C(=NC1CCC1=CC=C(C=C1)C(F)(F)F)N1N(C2=O)CCC1)C=1OC=C(N1)C(=O)O | C25H21F3N4O6
